US08377923B2
3-bromo-4-(1-{5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-4H-1,2,4-triazol-3-yl}-1-methylethoxy}benzamide (300 mg) was dissolved in DMF (6 ml), and sodium thiomethoxide (210 mg) was added thereto, followed by stirring at room temperature for 30 minutes. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain, as a white solid, 3-bromo-4-(1-methyl-1-{4-methyl-5-[4-(methylsulfanyl)-2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy]benzamide (163 mg).

reactant | 3-bromo-4-(1-{5-[4-fluoro-2-(trifluoromethyl)phenyl]-4-methyl-4H-1,2,4-triazol-3-yl}-1-methylethoxy}benzamide | 300 mg | BrC=1C=C(C(=O)N)C=CC1OC(C)(C)C1=NN=C(N1C)C1=C(C=C(C=C1)F)C(F)(F)F | C20H17BrF4N4O2
reactant | sodium thiomethoxide | 210 mg | C[S-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 3-bromo-4-(1-methyl-1-{4-methyl-5-[4-(methylsulfanyl)-2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy]benzamide | 163 mg | BrC=1C=C(C(=O)N)C=CC1OC(C)(C1=NN=C(N1C)C1=C(C=C(C=C1)SC)C(F)(F)F)C | C21H20BrF3N4O2S
